US08097628B2
CrO2 (Magtrieve) (335 mg, 3.99 mmol) was added to a solution of 3-chloro-5-(hydroxymethyl)-2-pyridinecarbonitrile (33.6 mg, 0.199 mmol) in DCM (2.5 ml) and the mixture was stirred at 40° C. TLC (5% MeOH in DCM) after 3 h showed some starting material. It was heated at 40° C. overnight and full conversion was observed by TLC. The solids were filtered off and the solvent evaporated, yielding 3-chloro-5-formyl-2-pyridinecarbonitrile (19.7 mg, 0.118 mmol, 59% yield) as a white solid.

reactant | 3-chloro-5-(hydroxymethyl)-2-pyridinecarbonitrile | 0.199 mmol, 33.6 mg | ClC=1C(=NC=C(C1)CO)C#N | C7H5ClN2O
reactant | MeOH | CO | CH4O
solvent | DCM | 2.5 ml | C(Cl)Cl | CH2Cl2
product | 3-chloro-5-formyl-2-pyridinecarbonitrile | 0.118 mmol, 19.7 mg, 59% yield | ClC=1C(=NC=C(C1)C=O)C#N | C7H3ClN2O
